US05688815
2.2 g of acetic acid [1-(2-acetoxy-ethyl)-3-benzyloxy-4-oxo-1,4-dihydropyridin-2-yl-methyl]-phenyl-methyl ester are hydrogenareal in 50 ml of tetrahydrofuran over 0.5 g of palladium on carbon (5%) under normal pressure and at a temperature of 50° C. until 2 mol of H2 per mol of starting material have been taken up. The catalyst is removed by filtration and the flitrate is concentrated by evaporation using a rotary evaporator. Recrystallisation from tetrahydrofuran yields 2-benzyl-3-hydroxy-1-(2-acetoxy-ethyl)-1H-pyridin-4-one, Colourless crystals, m.p.: 139.7°-140.7° C.

reactant | acetic acid [1-(2-acetoxy-ethyl)-3-benzyloxy-4-oxo-1,4-dihydropyridin-2-yl-methyl]-phenyl-methyl ester | 2.2 g | C(C)(=O)OCCN1C(=C(C(C=C1)=O)OCC1=CC=CC=C1)CC(C1=CC=CC=C1)OC(C)=O | C26H27NO6
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
product | 2-benzyl-3-hydroxy-1-(2-acetoxy-ethyl)-1H-pyridin-4-one | C(C1=CC=CC=C1)C=1N(C=CC(C1O)=O)CCOC(C)=O | C16H17NO4
